Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
transfer from ___ with DVT and PE
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ h/o left upper extremity DVT in ___, stage IIIA nodular 
sclerosing Hodgkin disease (treated with ABVD in ___ and in 
remission), paroxysmal atrial fibrillation (rate controlled with 
metoprolol), hypertension who presented to ___ with 
right lower extremity swelling on ___, found to have a DVT and
later pulmonary embolism, transferred given no ability for 
thrombectomy or directed thrombolytics at ___.

He presented to the ___ with right lower extremity 
swelling after falling from a ladder 4 days prior. He denied any 
recent travel or immobility, denies smoking or recent surgery. 
In the OSH ED, he was afebrile, HDS with O2 sat 96% on RA. 

LENIs revealed thrombus extending from the right common femoral 
vein into the right femoral and popiliteal veins as well as 
visualized calf veins. He was started on heparin ggt and 
admitted. He had no pleuritic pain, fevers, dyspnea throughout 
admission, but did endorse one episode of dyspnea earlier that
week. CTA showed extensive pulmonary thrombus involving right 
main pulmonary artery extending to involve the lobar branches of 
the right upper, middle, and lower lobes with extension into 
segmental/ subsegmental branches of all 3 lobes. Additionally, 
there was thrombus noted within the lobar branch of the left 
lower lobe extending into segmental subsegmental branches, and 
the segmental and subsegmental branches of the left upper lobe.

On CTA the RV:LV ratio > 1 suggestive of RV strain. He then had 
TTE which showed new RV dilation without regional wall 
abnormality, RVSP 40-45, trivial TR, elevated RA pressure 
(___). Increased RV dilation when compared to previous 
study in ___. Left heart parameters within normal limits, LVEF 
60%.

He was never hypoxic or hypotensive at ___. He was 
transferred here given that if he decompensated, there would not 
be options for thrombectomy or directed thrombolytics at ___ 
___. 

Vitals on transfer: T: , HR: 83, BP: 125/81, RR: 22, SpO2 96% RA 


Labs:  Notable for new thrombocytopenia (115k - 130k) PTT: 74.8 

EKG: Sinus rhythm, PACs, new Q waves in lead III

Upon arrival to ___, patient has no acute complaints. He has no 
shortness of breath, CP, fevers/chills. He does report warmth 
and swelling of his ___ from ankle to groin with some pain 
mostly in the groin. He has had upper extremity DVTs in the past 
in association with chemotherapy, but no history of PE. He also 
has no family history of thrombosis.

REVIEW OF SYSTEMS:  (+) Per HPI  
 
Past Medical History:
-Stage IIIA nodular sclerosing HD s/p ABVD in ___ in 
remission
      -LUE dvt in ___
-Paroxysmal Afib s/p cardioversion: warfarin stopped after 
cardioversion
-HTN

 
Social History:
___
Family History:
no family history of thrombosis
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:  
-VITALS:  reviewed 
-GENERAL: Well appearing male in NAD.
-HEENT: Sclera anicteric, MMM, oropharynx clear  
-NECK: JVP not elevated, no LAD  
-LUNGS: Clear to auscultation bilaterally, no 
wheezes/rales/rhonchi, no respiratory distress  
-CV: RRR, normal S1 S2, no murmurs, rubs, gallops  
-GI: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
-GU: no foley, no CVA tenderness 
-MSK: R lower extremity with erythema and 1+ pitting edema to 
the groin. Left lower extremity wnl. 2+ pulses bilaterally.
-SKIN: Intact   
-NEURO: Grossly intact
-Psych: no focal neurological deficits 
 
Pertinent Results:
DISCHARGE LABS
___ 08:45AM BLOOD WBC-7.6 RBC-4.64 Hgb-14.2 Hct-40.8 MCV-88 
MCH-30.6 MCHC-34.8 RDW-12.4 RDWSD-39.6 Plt ___
___ 08:45AM BLOOD Glucose-160* UreaN-16 Creat-0.8 Na-138 
K-3.9 Cl-100 HCO3-22 AnGap-16
___ 08:45AM BLOOD Calcium-9.5 Phos-2.6* Mg-2.0
___ 10:20PM BLOOD ___ PTT-69.0* ___
 
Brief Hospital Course:
Right lower extremity DVT and b/l PE
-Although ECHO at ___ with right heart strain troponin 
and BNP negative with no EKG changes or hemodynamic instability. 
 Although h/o provoked DVT in setting of malignancy there are no 
provoking factors for this clot.  He was transferred to ___ as 
___ does not have capabilities of 
thrombectomy/thrombolysis.  He was admitted to ___ and remained 
stable and transferred to the floor within a few hours.  As per 
discussions patient had with his oncologist prior to transfer to 
___ he recommends warfarin, which patient agrees with. Given 
continued hemodynamic stability patient was transitioned to ___ 
lovenox with warfarin and set up with ___ clinic at 
___.  His PCP ___ oncologist Dr. ___ 
notified; defer to oncologist to determine duration of 
anticoagulation and further investigate what appears to be an 
unprovoked DVT.  He was advised to monitor for worsening 
swelling, redness, or respiratory status and return to ED

Thrombocytopenia
-Seems to be new likely in setting of clots and consumptive 
process.  Would advise continued monitoring outpatient. 

Chronic Medical Problems
1. A fib, HTN: continue metoprolol and lisinopril
2. Depression: continue lamictal

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 200 mg PO DAILY 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Enoxaparin Sodium 110 mg SC Q12H 
RX *enoxaparin 120 mg/0.8 mL 110 mg SC twice a day Disp #*14 
Syringe Refills:*1 
3.  Warfarin 10 mg PO DAILY16 
RX *warfarin 10 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0 
4.  Aspirin 81 mg PO DAILY 
Do not take 325mg while on Coumadin/lovenox  
5.  LamoTRIgine 200 mg PO DAILY  
6.  Lisinopril 10 mg PO DAILY  
7.  Metoprolol Succinate XL 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left common femoral DVT and PEs

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were transferred from ___ with deep 
vein thrombosis (DVT) and pulmonary embolism (PE), which are 
blood clots.  Your vitals remained stable without any concerns 
for compromised cardiac or respiratory function.  As per 
recommendation of your oncologist Dr. ___ discussion 
with you and your family you were started on Coumadin with a 
lovenox bridge.  This is the same ___ clinic you used 
before but has moved locations and is now located at 
___.  The clinic will manage your lovenox 
injections and Coumadin dosing.  Follow up with Dr. ___ to 
determine how long you will need anticoagulation.  

It was a pleasure taking care of you.
Your ___ team. 

After talking with the ___ clinic at ___ and your PCP 
you will be enrolled in the ___ clinic at ___ 
___
 
Followup Instructions:
___